US04049668
The process of producing the surfactant of claim 1 comprising (a) reacting at reflux 2,2,3,4,4,4-hexafluorobutanol and 11-bromoundecanoic acid in presence of methane sulfonic acid as a catalyst and benzene as a solvent to obtain 2,2,3,4,4,4-hexafluorobutyl 11-bromoundecylate and then (b) reacting at reflux 2,2,3,4,4,4-hexafluorobutyl 11-bromoundecylate with pyridine in presence of methanol as a solvent to obtain 2,2,3,4,4,4-hexafluorobutyl 11-pyridylundecylate bromide.

reactant | 2,2,3,4,4,4-hexafluorobutanol | FC(CO)(C(C(F)(F)F)F)F | C4H4F6O
reactant | 11-bromoundecanoic acid | BrCCCCCCCCCCC(=O)O | C11H21BrO2
catalyst | methane sulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2,2,3,4,4,4-hexafluorobutyl 11-bromoundecylate | BrCCCCCCCCCCC(=O)OCC(C(C(F)(F)F)F)(F)F | C15H23BrF6O2
